US05968819
e) trans-Naphthalene-1-sulfonic acid (4-aminomethylcyclohexylmethyl)-amide
A suspension of trans-{4-[(naphthalene-1-sulfonylamino)methyl]-cyclohexylmethyl}-carbamic acid tert-butyl ester (25 g) in chloroform (300 ml) is treated with a 4 N HCl solution in dioxane (300 ml) at 0° C. After completion, the reaction mixture is concentrated in vacuo, the residue is taken up in a 1 N sodium hydroxide solution and dichloromethane. After extraction with dichloromethane, the organics are dried over sodium sulfate and concentrated to 18.5 g of trans-naphthalene-1-sulfonic acid (4-aminomethyl-cyclohexylmethyl)-amide as a white powder melting at 157-162° C. Rf(C3) 0.36.

reactant | trans-{4-[(naphthalene-1-sulfonylamino)methyl]-cyclohexylmethyl}-carbamic acid tert-butyl ester | 25 g | C(C)(C)(C)OC(NC[C@@H]1CC[C@H](CC1)CNS(=O)(=O)C1=CC=CC2=CC=CC=C12)=O | C23H32N2O4S
reactant | HCl | 4 N | Cl | ClH
solvent | chloroform | 300 ml | C(Cl)(Cl)Cl | CHCl3
solvent | dioxane | 300 ml | O1CCOCC1 | C4H8O2
product | trans-Naphthalene-1-sulfonic acid (4-aminomethylcyclohexylmethyl)-amide | NC[C@@H]1CC[C@H](CC1)CNS(=O)(=O)C1=CC=CC2=CC=CC=C12 | C18H24N2O2S
